US05587389
20. 2-{[[4-(2-Furylmethylthio)-3-methyl-2-pyridinyl]methyl]sulfinyl}-1H-benzimidazole
2-{[[4-(2-Furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole (2 mmol) are dissolved in 15 ml of dioxane + NaOH (6 mmol; 2N), and the solution is treated with 2.5 mmol of 7 percent strength sodium hypochlorite solution at 20° C. Sodium thiosulfate is added, dioxane is distilled off, the pH is brought to 9, the mixture is extracted using dichloromethane, and the product is crystallized from dichloromethane/diisopropyl ether. This gives the title compound (yield 80%) of m.p. 173° C. (decomp.) as a colorless solid.

reactant | 2-{[[4-(2-Furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole | 2 mmol | O1C(=CC=C1)CSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C19H17N3OS2
reactant | dioxane NaOH | 6 mmol, 2N, 15 ml | O1CCOCC1.[OH-].[Na+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | Sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 2-{[[4-(2-Furylmethylthio)-3-methyl-2-pyridinyl]methyl]sulfinyl}-1H-benzimidazole | yield 80% | O1C(=CC=C1)CSC1=C(C(=NC=C1)CS(=O)C1=NC2=C(N1)C=CC=C2)C | C19H17N3O2S2
